US07601844B2
Step 1: (R)-ethyl 4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidine-1-carboxylate
A solution of (R)-4-(4-chlorophenyl)-3,3-dimethylpiperidin-4-ol (1.96 g, 8.18 mmol) in Pyridine (20 mL) was cooled to 0° C., then treated with the dropwise addition of ethyl chloroformate (0.942 mL, 9.81 mmol), causing a color change to orange. The mixture was allowed to come to room temperature and stirred over night. The reaction was concentrated in-vacuo, and the residue was taken up in ethyl acetate, washed 3× with 1M NaOH, 3× with 1M HCl, once with brine, dried over sodium sulfate, and concentrated in-vacuo to yield the title compound (2.4 g, 7.70 mmol, 94% yield). The residue was used as-is in the next step. MS (ESI+)=334, (M+Na)+.

reactant | (R)-4-(4-chlorophenyl)-3,3-dimethylpiperidin-4-ol | 8.18 mmol, 1.96 g | ClC1=CC=C(C=C1)[C@]1(C(CNCC1)(C)C)O | C13H18ClNO
reactant | ethyl chloroformate | 9.81 mmol, 0.942 mL | ClC(=O)OCC | C3H5ClO2
solvent | Pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | (R)-ethyl 4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidine-1-carboxylate | 7.70 mmol, 2.4 g, 94% yield | ClC1=CC=C(C=C1)[C@]1(C(CN(CC1)C(=O)OCC)(C)C)O | C16H22ClNO3
